US07635715B2
Step A: Preparation of 4-(4-Methoxyphenyl)-tetrahydro-2H-pyran-4-carbonitrile
A mixture of NaH (3.1 g, 76 mmol) in 100 mL NMP stirred at 0° C., was treated dropwise with the mixture of 2-(4-methoxyphenyl)acetonitrile (4.5 g, 31 mmol) and 1-bromo-2-(2-bromoethoxy)ethane (7.1 g, 31 mmol) in 30 mL ether. The mixture was allowed to warm to room temperature and stirred for 5 hours, M+Na=240. The mixture was carefully quenched with 100 mL H2O, and the pH was adjusted to 5. The mixture was extracted with ether (3×100 mL). The combined organic layers were washed with H2O (3×50 mL) and brine (20 mL). The organic layer was dried over anhydrous Na2SO4, concentrated in vacuo, and purified by column chromatography eluting with 10-20% EtOAc/hexane to give 5.2 g of the product as a pale yellow oil. MS (m/z)=240 (M+H)+.

reactant | NaH | 76 mmol, 3.1 g | [H-].[Na+]
reactant | 2-(4-methoxyphenyl)acetonitrile | 31 mmol, 4.5 g | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 31 mmol, 7.1 g | BrCCOCCBr | C4H8Br2O
solvent | NMP | 100 mL | CN1CCCC1=O | C5H9NO
solvent | ether | 30 mL | CCOCC | C4H10O
product | 4-(4-Methoxyphenyl)-tetrahydro-2H-pyran-4-carbonitrile | 5.2 g | COC1=CC=C(C=C1)C1(CCOCC1)C#N | C13H15NO2
